US04717724
6-Hydroxy-2-(3-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline
4.3 g of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide, 3.1 g of 3-methoxybenzyl chloride and 2.8 g of finely powdered potassium carbonate are first stirred at room temperature for 2 hours and then at 80° C. for 5 hours. After cooling, the solvent is removed in vacuo, the residue is taken up with water/methylene chloride, and the organic phase is again shaken with water and dried over magnesium sulfate. After evaporation in a rotary evaporator, a yellow oil remains, and this crystallizes after trituration with ethyl acetate.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 4.3 g | Br.OC=1C=C2CCNCC2=CC1
reactant | 3-methoxybenzyl chloride | 3.1 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 6-Hydroxy-2-(3-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline | OC=1C=C2CCN(CC2=CC1)CC1=CC(=CC=C1)OC | C17H19NO2
